US04011342
a. Synthesis of N-methyl-N'-(2,6-dichloro-phenyl)thiourea (III : R = CH3)
130 g of 2,6-dichloro-aniline, 100 g of methyl isothiocyanate and 300 ml of 95% ethanol are refluxed during 14 hours, with stirring. The resulting solution is cooled in the freezer: the white solid formed is filtered and washed with isopropyl oxide. After recrystallization from isopropanol, 65 g of product (III : R = CH3), m.p. = 184° C, are collected.

reactant | 2,6-dichloro-aniline | 130 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | methyl isothiocyanate | 100 g | CN=C=S | C2H3NS
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | N-methyl-N'-(2,6-dichloro-phenyl)thiourea | CNC(=S)NC1=C(C=CC=C1Cl)Cl | C8H8Cl2N2S
